US07566699B2
A suspension of 3-[2-(4-bromophenyl)ethyl]-4-hydroxybenzofuran (0.5 g), sodium cyanide (0.23 g), tetrakis(triphenylphosphine)palladium (0) (91 mg) and copper (I) iodide (30 mg) in acetonitrile (5 mL) was heated for reflux for three days. To the reaction mixture was added water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=5/1) to give 3-[2-(4-cyanophenyl)ethyl]-4-hydroxybenzofuran (0.14 g). To a solution of hexamethyldisilazane (0.35 mL) in diethyl ether (2 mL) was added n-butyl lithium (2.46 mol/L n-hexane solution 0.7 mL) under ice-cooling, and the mixture was stirred at the same temperature for 10 minutes. To the reaction mixture was added a solution of the 3-[2-(4-cyanophenyl)ethyl]-4-hydroxybenzofuran (0.13 g) in diethyl ether (3 ml), and the mixture was stirred at room temperature for 2 hours. To the reaction mixture was added 2 mol/L hydrochloric acid, and the resulting mixture was washed with diethyl ether twice. The aqueous layer was basified by addition of 2 mol/L aqueous sodium hydroxide solution, and the mixture was poured into a saturated aqueous sodium hydrogen carbonate solution. The resulting mixture was extracted with a mixed solvent of dichlorometane and methanol (5/1) (three times), and the extract was dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 3-[2-(4-carbamimidoylphenyl)ethyl]-4-hydroxybenzofuran (0.11 g). This material was dissolved in 1,4-dioxane (5 mL)-1 mol/L aqueous sodium hydroxide solution (5 mL). To the solution was added benzyl chloroformate (0.1 mL), and the mixture was stirred at room temperature overnight. To the reaction mixture was added 1 mol/L hydrochloric acid (5 mL), and the mixture was poured into a saturated aqueous sodium hydrogen carbonate solution. The resulting mixture was extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1) to give the title compound (35 mg).

reactant | hexamethyldisilazane | 0.35 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyl lithium | 2.46 mol/L, 0.7 mL | C(CCC)[Li]
reactant | 3-[2-(4-cyanophenyl)ethyl]-4-hydroxybenzofuran | 0.13 g | C(#N)C1=CC=C(C=C1)CCC1=COC2=C1C(=CC=C2)O | C17H13NO2
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 3 ml | C(C)OCC | C4H10O
product | 3-[2-(4-carbamimidoylphenyl)ethyl]-4-hydroxybenzofuran | 0.11 g | C(N)(=N)C1=CC=C(C=C1)CCC1=COC2=C1C(=CC=C2)O | C17H16N2O2
